US08669266B2
(iii) 4-(2-Benzyloxycarbonylamino-acetyl)-piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester
To a solution of 842 mg N-Benzyloxycarbonyl glycine were added 2.0 ml N-ethylmorpholine, 1.32 g TOTU and 910 mg Piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester. After stirring for 48 h the reaction mixture was diluted with ethyl acetate and washed with aqueous LiCl (4%), 0.1 M HCl, saturated aqueous NaHCO3 and brine. The crude product obtained was used without further purification. Yield: 1.63 g.

reactant | N-Benzyloxycarbonyl glycine | 842 mg | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | N-ethylmorpholine | 2.0 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 1.32 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | Piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester | 910 mg | FC(CCOC(=O)N1CCNCC1)(F)F | C8H13F3N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Benzyloxycarbonylamino-acetyl)-piperazine-1-carboxylic acid 3,3,3-trifluoro-propyl ester | FC(CCOC(=O)N1CCN(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)(F)F | C18H22F3N3O5
